US07414052B2
To a mixture of trans-3-fluorocinnamic acid (50 g, 300 mmol) and iodomethane (300 mL) in acetone (1 L) was added portionwise cesium carbonate (147 g, 450 mmol, 1.5 equiv.), and the mixture was heated at 65° C. for 1.5 hours in a sealed reaction vessel. Upon cooling to room temperature, the reaction mixture was diluted with ethyl acetate (1 L), filtered through a pad of silica gel, and concentrated to give 47.33 g (87%) of trans-3-fluorocinnamic acid methyl ester as a colorless oil. MS (ES) m/z 180.0 (M+).

reactant | trans-3-fluorocinnamic acid | 300 mmol, 50 g | FC=1C=C(/C=C/C(=O)O)C=CC1 | C9H7FO2
reactant | iodomethane | 300 mL | IC | CH3I
reactant | cesium carbonate | 450 mmol, 147 g, 1.5 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 1 L | CC(=O)C | C3H6O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | trans-3-fluorocinnamic acid methyl ester | 47.33 g, 87% | COC(\C=C\C1=CC(=CC=C1)F)=O | C10H9FO2
